US08309546B2
1-{4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]-cis-2,6-dimethylpiperazin-1-yl}-1-oxopropan-2-ol
Triethylamine (70.2 μl, 0.50 mmol) and (S)-(−)-2-acetoxypropionyl chloride (32.9 μl, 0.25 mmol) were added to a methylene chloride suspension (7.0 ml) of 5-[8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (112.7 mg, 0.23 mmol) with ice cooling. The resulting mixture was stirred at room temperature for 3 hours followed by the addition of (S)-(−)-2-acetoxypropionyl chloride (9.0 μl, 0.07 mmol) with ice cooling and the resulting mixture was stirred at room temperature for 1 day. The reaction mixture was poured into methylene chloride-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, the resulting residue was dissolved in methylene chloride (7.0 ml) followed by the addition of triethylamine (140.3 μl, 1.01 mmol) and (S)-(−)-2-acetoxypropionyl chloride (65.7 μl, 0.50 mmol) with ice cooling, and the resulting mixture was stirred at room temperature for 1 day. The reaction mixture was poured into methylene chloride-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, a 25% by weight sodium methoxide-methanol solution (157.0 μl, 0.69 mmol) was added to a methanol (6.0 ml) solution of the resulting residue, and the resulting mixture was stirred at 50° C. for 22 hours. The resulting mixture was left standing to cool and then the reaction mixture was poured into methylene chloride and washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (132.6 mg, 96%) as a pale yellow solid.

reactant | Triethylamine | 0.50 mmol, 70.2 μl | C(C)N(CC)CC | C6H15N
reactant | (S)-(−)-2-acetoxypropionyl chloride | 0.25 mmol, 32.9 μl | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | 5-[8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.23 mmol, 112.7 mg | C[C@@H]1CN(C[C@@H](N1)C)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C21H27F3N10O
reactant | (S)-(−)-2-acetoxypropionyl chloride | 0.07 mmol, 9.0 μl | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | triethylamine | 1.01 mmol, 140.3 μl | C(C)N(CC)CC | C6H15N
reactant | (S)-(−)-2-acetoxypropionyl chloride | 0.50 mmol, 65.7 μl | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
reactant | sodium methoxide methanol | 0.69 mmol, 157.0 μl | C[O-].[Na+].CO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | 6.0 ml | CO | CH4O
solvent | methylene chloride methanol | C(Cl)Cl.CO
solvent | methylene chloride | 7.0 ml | C(Cl)Cl | CH2Cl2
product | 1-{4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]-cis-2,6-dimethylpiperazin-1-yl}-1-oxopropan-2-ol | 132.6 mg, 96% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(F)(F)F)N1C[C@@H](N([C@@H](C1)C)C(C(C)O)=O)C)N1CCOCC1 | C24H31F3N10O3
